US07291631B2
COMPOUND 379: N-{4-[(3,5-Dimethyl-pyridin-2-yl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-N-hydroxyurea (HBr salt)
N-{4-[(3,5-Dimethyl-pyridin-2-yl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-hydroxylamine (HBr salt) (180 mg, 0.25 mmol) was dissolved in H2O (2.5 mL) and treated with sodium cyanate (65 mg, 1.0 mmol) for 2 hours. 15% aqueous NaOH solution (0.1 mL) was added and the aqueous was extracted with CH2Cl2 (3×5 mL). The combined organics were then dried (Na2SO4) and concentrated under reduced pressure to afford, after radial chromatographic purification on a silica gel plate (3% NH4OH/CH3CN)N-{4-[(3,5-dimethyl-pyridin-2-yl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-N-hydroxyurea (73 mg, 73%).

reactant | N-{4-[(3,5-Dimethyl-pyridin-2-yl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-hydroxylamine | 0.25 mmol, 180 mg | CC=1C(=NC=C(C1)C)N(CCCCNO)C1CCCC=2C=CC=NC12 | C20H28N4O
reactant | sodium cyanate | 1.0 mmol, 65 mg | [O-]C#N.[Na+]
reactant | NaOH | 0.1 mL | [OH-].[Na+]
solvent | H2O | 2.5 mL | O | H2O
product | N-{4-[(3,5-Dimethyl-pyridin-2-yl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-N-hydroxyurea | CC=1C(=NC=C(C1)C)N(CCCCN(C(=O)N)O)C1CCCC=2C=CC=NC12 | C21H29N5O2
